US04965155
In 30 ml of dimethylformamide were dissolved 3.82 g of 3-carboxymethylrhodanine and 3.54 g of p-diethylaminobenzaldehyde, and the solution was stirred at 100° C. for 3 hours. After termination of the reaction, the solution was poured into water, and the formed precipitate was recovered by filtration, washed with water and recrystallized from acetone to obtain 3-carboxymethyl-5-(p-diethylaminobenzylidene)rhodanine (the yield was 87%).

reactant | 3-carboxymethylrhodanine | 3.82 g | C(=O)(O)CN1C(SCC1=O)=S | C5H5NO3S2
reactant | p-diethylaminobenzaldehyde | 3.54 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-carboxymethyl-5-(p-diethylaminobenzylidene)rhodanine | yield was 87% | C(=O)(O)CN1C(SC(C1=O)=CC1=CC=C(C=C1)N(CC)CC)=S | C16H18N2O3S2
